Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Simvastatin / 
Hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
Chest discomfort, tachycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo woman with the history of hypertension, 
dyslipidemia, aortic regurgitation and atrial fibrillation on 
Coumadin who presents w/ chest pain and palpitations.  Patient 
was in ___ clinic this morning where she is being 
evaluated for thyroiditis.  While in the exam room was 
complaining of chest pressure and nausea and was noted to be in 
afib with RVR.  She was transfered to the ED where she was given 
metoprolol 5 mg IV x4 with 50 mg PO without sustained effect.  
Troponin was negative x1 and EKG did not show ST segment 
changes.
 
Without effect from metoprolol the patient was started on 
esmolol drip and transferred to the ICU.

on arrival pt was 133, 106/72 and in no distress.  The above 
history obtained via a translator as patient speaks ___.

ROS is negative for infectious symptoms or on going chest 
pressure / claudicative symptoms.
 

 
Past Medical History:
-Atrial fibrillation 
-hypertension,
-dyslipidemia,
-aortic regurgitation
-osteopenia
-stage III CKD
-reflux disease,
-iron deficiency anemia.

 
Social History:
___
Family History:
Lung cancer in brother, HTN in distant family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=================================
Vitals:  131, 106/72
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  no noted thyromegally or 
masses
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE PHYSICAL EXAM:
=================================
General Appearance: Well nourished, No acute distress
Eyes / Conjunctiva: PERRL
Head, Ears, Nose, Throat: Normocephalic
Lymphatic: multiple thyroid nodules
Cardiovascular: RRR nl s1, s2, no m/r/g
Respiratory / Chest: CTAB, no respiratory distress
Abdominal: Soft, Non-tender
Neurologic: Responds to: Not assessed, Movement: Not assessed, 
Tone: Not assessed

 
Pertinent Results:
LABS:
==============================
___ 02:10PM BLOOD WBC-5.2 RBC-3.81* Hgb-11.1* Hct-34.7* 
MCV-91 MCH-29.2 MCHC-32.0 RDW-11.6 Plt ___
___ 02:10PM BLOOD Neuts-55.6 ___ Monos-8.7 Eos-1.4 
Baso-0.8
___ 02:10PM BLOOD ___ PTT-39.9* ___
___ 02:10PM BLOOD Glucose-83 UreaN-22* Creat-0.7 Na-139 
K-4.0 Cl-105 HCO3-22 AnGap-16
___ 02:10PM BLOOD cTropnT-<0.01
___ 02:10PM BLOOD Calcium-8.8 Phos-3.2 Mg-2.1
___ 02:10PM BLOOD TSH-<0.02*
___ 02:10PM BLOOD T4-14.4* T3-160
___ 01:56AM BLOOD WBC-5.3 RBC-3.69* Hgb-10.8* Hct-34.1* 
MCV-93 MCH-29.2 MCHC-31.6 RDW-11.4 Plt ___
___ 01:56AM BLOOD Glucose-109* UreaN-18 Creat-0.8 Na-142 
K-3.7 Cl-110* HCO3-26 AnGap-10
___ 01:56AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.1

IMAGING:
==============================
-CHEST (PA & LAT) Study Date of ___:
IMPRESSION: 
No acute cardiopulmonary process. 

 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION:
=================================================
___ yo w/ hx of afib and now concern for thyroidits admitted with 
afib with RVR and chest pressure.

ACTIVE ISSUES:
=================================================
#Atrial fibrillation with RVR: Patient with poor rate control 
despite outpatient increases in metoprolol dosing. In ED 
recieved 70% of her home dose of metoprolol and had esmolol 
drip. She was chest pain free in the ED with out concern for 
rate related ischemia based on inital labs and EKG without ST 
segment change. In ICU esmolol drip discontinued in favor of 
increased oral metoprolol dosing. Patient increased to 75mg 
Metoprolol q6 hours with reversion to sinus rhythm with rates in 
the ___. Patient is transitioned to metoprolol succinate XL 
150mg BID upon discharge. 

#Hyperthyroidism: Free T4 was greater than assay on the ___ 
with an uptake scan suggesting subacute thyroiditis, no 
indication for methimazole at this time and we will deferred 
treatment to the patient's endocrinologist regarding radio 
iodine ablation.  

#HL:  continued home statin

#CKD: creatinine was at baseline

TRANSITIONAL ISSUES:
=================================================
- Will need thyroid function testing in 1 week.
- Increased her home dose of metoprolol to succinate XL 150mg 
BID.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain 
2. Pravastatin 20 mg PO DAILY 
3. Warfarin 2 mg PO DAILY16 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral daily 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain 
2. Metoprolol Succinate XL 150 mg PO BID 
RX *metoprolol succinate 100 mg 1.5 tablet extended release 24 
hr(s) by mouth twice a day Disp #*45 Tablet Refills:*1
3. Pravastatin 20 mg PO DAILY 
4. Warfarin 2 mg PO DAILY16 
5. Omeprazole 20 mg PO DAILY 
6. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation
Hyperthyroidism (subacute thyroiditis)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure to take care of you at ___ 
___. You were admitted for chest discomfort and a 
fast heart rate. We diagnosed you with hyperthyroidism (high 
thyroid). You were started on medications to lower your heart 
rate. You did not experience a heart attack. 

Please take your medications as prescribed and follow up with 
the appointments listed below. Please have your INR checked on 
___.

The following changes were made to your medications:
INCREASED metoprolol to twice daily
 
Followup Instructions:
___